US08026234B2
2-Fluoro-5-methoxy-4-nitrobenzoic acid:
To a solution of 2,5-difluoro-4-nitrobenzoic acid (55 g, 291 mmol) in methanol (800 mL) at 80° C. was added a methanolic solution of potassium hydroxide (48.9 g, 873 mmol in 175 mL MeOH, pre-heated at 80° C. to dissolve) dropwise in a period of 2 h using an addition funnel. The reaction mixture was continuously stirred for 1 h after addition was completed. It was then concentrated, acidified with HCl to pH=1-2. The reaction mixture was then vigorously stirred overnight. Fine powder was filtered, washed with more water and dried to give the product as light yellow powder (55.4 g, 90%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.95 (s, 3H) 7.66 (d, J=4 Hz, 1H) 8.01 (d, J=8 Hz, 1H). [M+H] calc'd for C8H6FNO5, 216. found 216.

reactant | 2,5-difluoro-4-nitrobenzoic acid | 291 mmol, 55 g | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])F | C7H3F2NO4
reactant | potassium hydroxide | 873 mmol, 175 mL, 48.9 g | [OH-].[K+]
reactant | methanol | 800 mL | CO | CH4O
product | 2-Fluoro-5-methoxy-4-nitrobenzoic acid | 55.4 g, 90% | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
